US03996229
In a manner analogous to that described in Example 1, from 10-chloro-10,11-dihydro-3-methyl-8-fluoro-dibenzo[b,f]thiepin and N-(2-propynyl)-piperazine there is obtained 1-[10,11-dihydro-3-methyl-8-fluoro-dibenzo[b,f]thiepin-10-yl]-4-(2-propynyl)-piperazine, the dimethanesulfonate of which melts at 168°-174° C.

reactant | 10-chloro-10,11-dihydro-3-methyl-8-fluoro-dibenzo[b,f]thiepin | ClC1CC2=C(SC3=C1C=C(C=C3)F)C=C(C=C2)C | C15H12ClFS
reactant | N-(2-propynyl)-piperazine | C(C#C)N1CCNCC1 | C7H12N2
product | 1-[10,11-dihydro-3-methyl-8-fluoro-dibenzo[b,f]thiepin-10-yl]-4-(2-propynyl)-piperazine | CC=1C=CC2=C(SC3=C(C(C2)N2CCN(CC2)CC#C)C=C(C=C3)F)C1 | C22H23FN2S
